US07482340B2
2-(3-Hydroxyphenyl)chroman-4,6-diol was prepared as described for 2-(4-fluorophenyl)chroman-4,6-diol in Example 2(b) but starting from 6-hydroxy-2-(3-hydroxyphenyl)chroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 9.43 (bs, 1H), 8.88 (bs, 1H), 7.19-7.15 (m, 1H), 6.87 (d, 1H, J 2.7 Hz), 6.84-6.82 (m, 2H), 6.72-6.69 (m, 1H), 6.58 (d, 1H, J 8.7 Hz), 6.53 (dd, 1H, J 2.7, 8.7), 5.01 (d, 1H, J 11.3 Hz), 4.86 (dd, 1H, J 6.2, 10.8 Hz), 2.25-2.19 (m, 1H), 1.88-1.75 (m, 1H).

reactant | 2-(4-fluorophenyl)chroman-4,6-diol | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13FO3
reactant | 6-hydroxy-2-(3-hydroxyphenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC(=CC=C1)O)=O | C15H12O4
product | 2-(3-Hydroxyphenyl)chroman-4,6-diol | OC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O4
